US07205306B2
3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone and 7-bromo-5-methoxyindoline hydrochloride as the starting materials. mp 138–140° C.; 1H NMR (300 MHz, CDCl3): δ 6.94 (s, 1 H), 6.89 (d, J=2.2 Hz, 1 H), 6.75 (d, J=2.5 Hz, 1 H), 4.34–4.24 (m, 2 H), 4.10–4.01 (m, 1 H), 3.76 (s, 3 H), 3.09 (t, J=7.9 Hz, 2 H), 1.91–1.74 (m, 2 H), 1.06–0.98 (m, 1 H), 0.95–0.86 (m, 3 H), 0.79–0.72 (m, 1 H), 0.53–0.44 (m, 2 H), 0.35–0.24 (m, 1 H); HRMS (CI) calcd for C19H22N3O2BrCl (M+H)+: 438.0584; found m/z 438.0570.

reactant | 3,5-dichloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@H](CC)C1CC1)=O | C10H12Cl2N2O
reactant | 7-bromo-5-methoxyindoline hydrochloride | Cl.BrC=1C=C(C=C2CCNC12)OC
product | 3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone | BrC=1C=C(C=C2CCN(C12)C=1C(N(C=C(N1)Cl)[C@H](CC)C1CC1)=O)OC | C19H21BrClN3O2
